US04347382
A mixture of 3-chloro-4-methyl-benzonitrile (30.0 g, 0.2 mol), N-bromosuccinimide (36.0 g, 0.21 mol) and benzoyl peroxide (100 mg) in 600 mL of CCl4 was refluxed with illumination for 72 h. N-Bromosuccinimide (5.0 g) was added and the reaction was continued for an additional 24 h. The mixture was cooled, filtered and evaporated. Recrystallization from heptane gave pure 2-chloro-4-cyanobenzyl bromide: yield 24.5 g; mp 83°-85° C. Anal. calcd for C8H5BrClN; C, 41.69; H, 2.19; N, 6.07. Found: C, 41.48; H, 1.80; N, 5.76.

reactant | 3-chloro-4-methyl-benzonitrile | 0.2 mol, 30.0 g | ClC=1C=C(C#N)C=CC1C | C8H6ClN
reactant | N-bromosuccinimide | 0.21 mol, 36.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-Bromosuccinimide | 5.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 600 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-4-cyanobenzyl bromide | ClC1=C(CBr)C=CC(=C1)C#N | C8H5BrClN
